US07420055B2
Synthesis of 4-Bromo-N -[4-chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide
The title compound was prepared according to the general procedures for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone 2.4 g (8.77 mmol) and 4-bromo-3-fluoro-benzenesulfonyl chloride 2.16 g (8.77 mmol) stirred in 14 ml pyridine. Purification on silica gel with flash column chromatography gave a light orange solid.

reactant | (2-amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone | 8.77 mmol, 2.4 g | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C | C13H11ClN2O
reactant | 4-bromo-3-fluoro-benzenesulfonyl chloride | 8.77 mmol, 2.16 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | 4-Bromo-N -[4-chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide | BrC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C)F | C19H13BrClFN2O3S
